US07893267B2
A mixture of 25 mg (0.049 mmol) of 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide, 0.0152 mL (0.15 mmol) of benzaldehyde and 0.6 mL of DMF was stirred for 10 min. 67 mg (0.3 mmol) of sodium triacetoxyborohydride was added and the reaction mixture was stirred at room temperature for 24 h. The reaction mixture was partitioned between dichloromethane (10 mL) and water (10 mL). The organic layer was separated and dried over sodium sulfate. Purification by column chromatography on silica gel gave 11.7 mg (49%) of 2-benzyl-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 492 (M+1)+.

reactant | 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 0.049 mmol, 25 mg | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=C1CCNCC1=CC2 | C21H19N7O2
reactant | benzaldehyde | 0.15 mmol, 0.0152 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 0.3 mmol, 67 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 2-benzyl-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 11.7 mg, 49% | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=C1CCN(CC1=CC2)CC2=CC=CC=C2 | C28H25N7O2
